US08530470B2
To a stirred solution of (R)-1-(benzyl(2-hydroxyethyl)amino)propan-2-ol (110 g, 525.60 mmol) in dioxane (500 mL) under nitrogen, potassium hydroxide powder (88 g, 1576.80 mmol) and tris(2-(2-methoxyethoxy)ethyl)amine (1.681 mL, 5.26 mmol) were successively added. The mixture was cooled to 0° C. and a solution of 4-methylbenzene-1-sulfonyl chloride (105 g, 551.88 mmol) in dioxane (500 mL) was added dropwise. The reaction mixture was stirred at 0° C. for 45 min then at room temperature for an additional 4 h. The mixture was filtered and filtrate evaporated. The residue was dissolved in DCM and purified on silica, eluting with 25% of EtAc in DCM. The solvents were evaporated to afford an oil which was diluted with EtAc (250 mL). A solution of 4N HCl in dioxane (0.066 L, 262.8 mmol) was then added dropwise under stirring. After 30 min, the formed solid was collected by filtration, washed with diethyl ether and dried to afford (R)-4-benzyl-2-methylmorpholine hydrochloride (40 g, 33%) as a white solid. Proton NMR Spectrum: (DMSO-d6): 1.09 (d, 3H), 2.67-2.77 (m, 1H), 2.93-3.04 (m, 1H), 3.14-3.23 (m, 2H), 3.83-4.00 (m, 3H), 4.29-4.34 (m, 2H), 7.43-7.49 (m, 3H), 7.60-7.68 (m, 2H), 11.62 (bs, 1H).

reactant | (R)-1-(benzyl(2-hydroxyethyl)amino)propan-2-ol | 525.60 mmol, 110 g | C(C1=CC=CC=C1)N(C[C@@H](C)O)CCO | C12H19NO2
reactant | potassium hydroxide | 1576.80 mmol, 88 g | [OH-].[K+]
reactant | 4-methylbenzene-1-sulfonyl chloride | 551.88 mmol, 105 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 500 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 500 mL | O1CCOCC1 | C4H8O2
catalyst | tris(2-(2-methoxyethoxy)ethyl)amine | 5.26 mmol, 1.681 mL | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
solvent | dioxane | 262.8 mmol, 0.066 L | O1CCOCC1 | C4H8O2
product | (R)-4-benzyl-2-methylmorpholine hydrochloride | 40 g, 33% | Cl.C(C1=CC=CC=C1)N1C[C@H](OCC1)C | InChI=1S/C12H17NO.ClH/c1-11-9-13(7-8-14-11)10-12-5-3-2-4-6-12;/h2-6,11H,7-10H2,1H3;1H/t11-;/m1./s1
